US05538980
Preparation of (+/-) 6-methyl-1-(1-(2-methoxynaphthalenyl)methyl)-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole hydrochloride
To a stirred solution of 5-methyltryptamine hydrochloride (947 mg, 4.49 mmol) in 20 mL of ethyl alcohol was added (2-methoxy-1-naphthyl)-acetaldehyde (1.0 g, 4.99 mmol). The solution was heated to reflux under nitrogen atmosphere for 40 hours. The reaction mixture was cooled to ambient temperature and the crude product isolated by filtration. Recrystallization from ethyl alcohol/2-butanone afforded product as a pale solid (705 mg). (mp. 245.3° C.).

reactant | 5-methyltryptamine hydrochloride | 4.49 mmol, 947 mg | Cl.CC1=CC=C2NC=C(CCN)C2=C1
reactant | (2-methoxy-1-naphthyl)-acetaldehyde | 4.99 mmol, 1.0 g | COC1=C(C2=CC=CC=C2C=C1)CC=O | C13H12O2
solvent | ethyl alcohol | 20 mL | C(C)O | C2H6O
product | (+/-) 6-methyl-1-(1-(2-methoxynaphthalenyl)methyl)-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole hydrochloride | Cl.CC=1C=C2C3=C(NC2=CC1)C(NCC3)CC3=C(C=CC1=CC=CC=C31)OC | InChI=1S/C24H24N2O.ClH/c1-15-7-9-21-19(13-15)18-11-12-25-22(24(18)26-21)14-20-17-6-4-3-5-16(17)8-10-23(20)27-2;/h3-10,13,22,25-26H,11-12,14H2,1-2H3;1H
